US06992087B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-[(1R,2S)-2-(2-fluoroethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and 1-bromo-2-fluoroethane and making non-critical variations provided the title compound as a pale yellow semi-solid. IR (diffuse reflectance) 2970, 1604, 1564, 1481, 1439, 1391, 1286, 1228, 1204, 1182, 1123, 1109, 1044, 876, 750 cm−1; OAMS supporting ions at: ESI+ 470.1; MS (EI) m/z 469 (M+); HRMS (FAB) calcd for C26H29CLFN3O2+H1 470.2010, found 470.2013. [α]25D=−82 (c 0.39, methylene chloride); Anal. Calcd for C26H29ClFN3O2: C, 66.45; H, 6.22; N, 8.94. Found: C, 66.41; H, 6.37; N, 8.84.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C24H26ClN3O2
reactant | 1-bromo-2-fluoroethane | BrCCF | C2H4BrF
product | 5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-[(1R,2S)-2-(2-fluoroethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCCF)CC | C26H29ClFN3O2
